US05238599
A solution of 6.1 g (0.025 mol) of 2-[2'-(trans-4"-butylcyclohexyl)ethyl]propane-1,3-diol, 5.1 g (0.025 mol) of 4-bromo-3-fluorobenzaldehyde, and g of TsOH in 125 cm3 of dichloromethane was refluxed for 5 hours over a hot water bath with a Dean-Stark trap. The solution was washed with water and the dichloromethane was distilled off. The residue was recrystallized from a solvent mixture of acetone and methanol to yield 8.4 g (0.02 mol) of 2-(4'-bromo-3'-fluorophenyl)-5-[2'-(trans-4"-butylcyclohexyl)ethyl]-1,3-dioxane.

reactant | 2-[2'-(trans-4"-butylcyclohexyl)ethyl]propane-1,3-diol | 0.025 mol, 6.1 g | C(CCC)[C@@H]1CC[C@H](CC1)CCC(CO)CO | C15H30O2
reactant | 4-bromo-3-fluorobenzaldehyde | 0.025 mol, 5.1 g | BrC1=C(C=C(C=O)C=C1)F | C7H4BrFO
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | dichloromethane | 125 cm3 | ClCCl | CH2Cl2
product | 2-(4'-bromo-3'-fluorophenyl)-5-[2'-(trans-4"-butylcyclohexyl)ethyl]-1,3-dioxane | 0.02 mol, 8.4 g | BrC1=C(C=C(C=C1)C1OCC(CO1)CC[C@@H]1CC[C@H](CC1)CCCC)F | C22H32BrFO2
